US09056859B2
To a flask charged with 2,3-dihydro-1H-indene-1,4-diyldimethanol (210 mg, 1.2 mmol) and a stir bar was added thallium trifluoroacetate (770 mg, 1.4 mmol) and TFA (2 mL) at 0° C. The mixture was allowed to stir for 16 hours. LC showed no SM left at that point. The volatiles were removed under reduced pressure, and the residue was dissolved in DCM and concentrated twice to affect azeotropic removal of all TFA. After pumping the residue under high vacuum for 20 minutes, palladium chloride (21 mg, 0.18 mmol), lithium chloride (75 mg, 1.8 mmol), magnesium oxide (190 mg, 4.7 mmol), and MeOH (10 mL) were added to the flask. The mixture was treated under an atmosphere of CO for 2 hours. To this mixture was added DCM and EtOAc to precipitate all the inorganic solids. The crude solution was filtered through a Celite® pad, and the filtrate was collected, adsorbed onto silica gel, and purified by MPLC to afford 6-(hydroxymethyl)-1,6,7,8-tetrahydro-3H-indeno[4,5-c]furan-3-one. 1H-NMR (500 MHz, CDCl3) δ ppm 7.79 (d, J=8.0 Hz, 1H), 7.52 (d, J=8.0 Hz, 1H), 5.27 (s, 2H), 3.91 (d, J=6.0 Hz, 2H), 3.85 (dd, J=6.0, 3.5 Hz, 1H), 3.50 (in, 1H), 3.00 (m, 1H), 2.93 (m, 1H), 2.45 (m, 1H), 2.14 (m, 1H).

reactant | 2,3-dihydro-1H-indene-1,4-diyldimethanol | 1.2 mmol, 210 mg | C1(CCC2=C(C=CC=C12)CO)CO | C11H14O2
reactant | thallium trifluoroacetate | 1.4 mmol, 770 mg | FC(C(=O)[O-])(F)F.[Tl+]
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | lithium chloride | 1.8 mmol, 75 mg | [Cl-].[Li+]
reactant | magnesium oxide | 4.7 mmol, 190 mg | [O-2].[Mg+2]
catalyst | palladium chloride | 0.18 mmol, 21 mg | [Pd](Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(hydroxymethyl)-1,6,7,8-tetrahydro-3H-indeno[4,5-c]furan-3-one | OCC1CCC2=C1C=CC1=C2COC1=O | C12H12O3
